US07462639B2
[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid isopropyl ester
[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid isopropyl ester was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.805 mmol) and isopropyl chloroformate (886 mg, 0.886 mmol). 136 mg (43%) of the title compound were obtained.

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.805 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | isopropyl chloroformate | 0.886 mmol, 886 mg | ClC(=O)OC(C)C | C4H7ClO2
product | [3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid isopropyl ester | 136 mg, 43% | C(C)(C)OC(NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1)=O | C20H24N6O3
